US04680303
To a solution of N-methyl-2-(6-methyl-2-pyridyl)-2-tetrahydrothiopyrancarbothioamide 1-oxide (72.4 g) in methylene chloride (1.4 liters), phosphorus pentasulphide (28.5 g) is added at a temperature below 28° C. and in the course of 50 minutes. The reaction mixture is stirred for 1 hour 45 minutes at a temperature in the region of 25° C. and distilled water (250 cc) is then added. The organic phase is decanted and washed 3 times with distilled water (750 cc in total) and dried over anhydrous magnesium sulphate, decolorising charcoal is added and the mixture is kept for 15 hours at a temperature in the region of 5° C. After filtration, the solution is poured onto neutral silica gel (1.6 kg; 0.063-0.200 mm) contained in a column 8 cm in diameter. The column is eluted with methylene chloride, collecting one fraction (3.9 liters) and 13 fractions (900 cc). The column is then eluted with a mixture of cyclohexane and ethyl acetate (60:40 by volume), collecting 5 fractions (900 cc). Fractions 6 to 13 and 15 to 18 are combined and concentrated to dryness under reduced pressure (0.5 mm Hg; 0.06 kPa) at 45° C. To the product obtained (49.6 g) there is added some product (41.2 g) prepared under the same conditions in a previous operation, and the combined product is dissolved in boiling ethyl acetate (600 cc); decolorising charcoal (10 g) is added to the solution, which is filtered hot and then kept, after being cooled, for 4 hours at 0° C. The crystals which appear are separated by filtration, washed twice with ethyl acetate (30 cc in total) and 4 times with isopropyl ether (160 cc in total), and then dried under reduced pressure (0.2 mm Hg; 0.026 kPa) at 55° C. N-Methyl-2-(6-methyl-2-pyridyl)-2-tetrahydrothiopyrancarbothioamide (68.1 g), m.p. 139° C., is thereby obtained.

reactant | N-methyl-2-(6-methyl-2-pyridyl)-2-tetrahydrothiopyrancarbothioamide 1-oxide | 72.4 g | CNC(=S)C1(S(CCCC1)=O)C1=NC(=CC=C1)C | C13H18N2OS2
reactant | phosphorus pentasulphide | 28.5 g | P12(=S)SP3(=S)SP(=S)(S1)SP(=S)(S2)S3 | P4S10
reactant | ethyl acetate | 600 cc | C(C)(=O)OCC | C4H8O2
reactant | charcoal | 10 g | C | CH4
solvent | methylene chloride | 1.4 liters | C(Cl)Cl | CH2Cl2
product | N-Methyl-2-(6-methyl-2-pyridyl)-2-tetrahydrothiopyrancarbothioamide | 68.1 g | CNC(=S)C1(SCCCC1)C1=NC(=CC=C1)C | C13H18N2S2
